US05830892
A solution of HCl in ethanol (5M, 43 ml) was added to a stirred, cooled solution of [2S,3S]-1-[(5-(dimethylaminomethyl)-1H-[1,2,3]triazol-4-yl)methyl]-2-phenyl-3-[3-(5-methyltetrazol-1 -yl)-5-(trifluoromethyl)phenylmethoxy]piperidine (49 mg, 90 mmol) in ethanol (2 ml). The solvent was evaporated under reduced pressure and the residue was triturated with ether (5 ml). The solid was collected and dried in vacuo to give [2S, 3S]-1-[(5-(dimethylaminomethyl)-1H-[1,2,3]triazol-4-yl)methyl]-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine dihydrochloride as a tan-coloured solid (55 mg), mp 134°-137° C., 1H (D2O) δ 7.78 (3H, m), 7.44-7.00 (7H, m), 4.87 (1H, d, J=13.5 Hz), 4.47 (1H, d, J=13.5 Hz), 4.40 (1H, d, J=15.3 Hz), 4.36 (1H, d, J=15.3 Hz), 4.30 (1H, s), 3.83-3.61 (5H, m), 3.29 (1H, d, J=14.6 Hz), 2.67 (6H, s), 2.51 (3H, s), 2.31 (2H, m), 1.85 (1H, m), and 1.71 (1H, m).

reactant | HCl | Cl | ClH
reactant | [2S,3S]-1-[(5-(dimethylaminomethyl)-1H-[1,2,3]triazol-4-yl)methyl]-2-phenyl-3-[3-(5-methyltetrazol-1 -yl)-5-(trifluoromethyl)phenylmethoxy]piperidine | 90 mmol, 49 mg | CN(C)CC1=C(N=NN1)CN1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C)C1=CC=CC=C1 | C27H32F3N9O
solvent | ethanol | 5M, 43 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | [2S, 3S]-1-[(5-(dimethylaminomethyl)-1H-[1,2,3]triazol-4-yl)methyl]-2-phenyl-3-[3-(5-methyltetrazol-1-yl)-5-(trifluoromethyl)phenylmethoxy]piperidine dihydrochloride | 55 mg | Cl.Cl.CN(C)CC1=C(N=NN1)CN1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)N1N=NN=C1C)C1=CC=CC=C1 | InChI=1S/C27H32F3N9O.2ClH/c1-18-31-35-36-39(18)22-13-19(12-21(14-22)27(28,29)30)17-40-25-10-7-11-38(26(25)20-8-5-4-6-9-20)16-24-23(15-37(2)3)32-34-33-24;;/h4-6,8-9,12-14,25-26H,7,10-11,15-17H2,1-3H3,(H,32,33,34);2*1H/t25-,26-;;/m0../s1
